US07557138B2
4-(4-Pentynyloxy)-7H-furo[3,2-g][1]benzopyran-7-on
500 mg (2.473 mmol) of 5-hydroxypsoralen and 405.85 mg (3.957 mmol) of 5-chloro-1-pentyne were refluxed in 30 ml of acetonitrile in the presence of an excess of anhydrous potassium carbonate (2.0 gm) and catalytic amounts of potassium iodide for 24 hours. The progress of the reaction was monitored by thin layer chromatography. After 24 hours the reaction mixture was concentrated under reduced pressure. The oily residue was cooled, diluted with water and acidified with concentrated hydrochloric acid to pH 1. The aqueous phase was extracted with dichloromethane. The dichloromethane phase was extracted with 25 ml of 1% sodium hydroxide to separate the un-reacted 5-hydroxypsoralen. The dichloromethane phase was washed with acidic water and then with water to pH˜6-7. The organic phase was then dried over anhydrous sodium sulphate and concentrated to dryness. The residue was dissolved in methanol, decolorized with charcoal and re-crystallized from methanol.

reactant | 5-hydroxypsoralen | 2.473 mmol, 500 mg | C1=COC=2C1=C(C3=C(C2)OC(=O)C=C3)O | C11H6O4
reactant | 5-chloro-1-pentyne | 3.957 mmol, 405.85 mg | ClCCCC#C | C5H7Cl
reactant | potassium carbonate | 2.0 gm | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-(4-Pentynyloxy)-7H-furo[3,2-g][1]benzopyran-7-on | C(CCC#C)OC1=C2C(=CC3=C1C=CC(O3)=O)OC=C2 | C16H12O4
